US09029357B2
To a solution of (1H-benzimidazol-2-ylmethylene)(1-methylpiperidin-4-yl)amine (70 mg) in tetrahydrofurane (3 mL) is added a 1.5M solution of 3-trifluoromethylphenylmagnesium bromide in tetrahydrofurane (0.77 mL) at room temperature. The mixture is then stirred at 40° C. for 1 h, hydrolyzed with water and extracted with ethyl acetate. The pooled organic extracts are washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by column chromatography (gradient dichloromethane/methanol/ammonia from 95/5/0.5 to 90/10/0.5) to give [(1H-benzimidazol-2-yl)(3-trifluoromethylphenyl)methyl](1-methylpiperidin-4-yl)amine as a yellow solid melting at 90° C.

reactant | (1H-benzimidazol-2-ylmethylene)(1-methylpiperidin-4-yl)amine | 70 mg | N1C(=NC2=C1C=CC=C2)C=NC2CCN(CC2)C | C14H18N4
reactant | 3-trifluoromethylphenylmagnesium bromide | FC(C=1C=C(C=CC1)[Mg]Br)(F)F
reactant | water | O | H2O
solvent | tetrahydrofurane | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 0.77 mL | O1CCCC1 | C4H8O
product | [(1H-benzimidazol-2-yl)(3-trifluoromethylphenyl)methyl](1-methylpiperidin-4-yl)amine | N1C(=NC2=C1C=CC=C2)C(C2=CC(=CC=C2)C(F)(F)F)NC2CCN(CC2)C | C21H23F3N4
